US07820700B2
In 7 ml of DMSO was dissolved 2.22 g of methyl 2-(3-cyano-4-fluorophenyl)isonicotinate, and 2.44 ml of hexamethyleneimine was added thereto, followed by heating at 50° C. for 5 hours. After cooling, the reaction solution was diluted with ethyl acetate and was washed with 1M hydrochloric acid, a saturated aqueous sodium hydrogen carbonate solution, and brine, successively. The organic layer was dried and then concentrated under reduced pressure and the resulting residue was dissolved in a mixed solvent of ethyl acetate and diisopropyl ether. Activated carbon was added thereto, followed by stirring for 1 hour. Then, the activated carbon was removed by filtration and washed with ethyl acetate. The resulting filtrate and washing liquid were combined and concentrated to obtain 2.58 g of methyl 2-(4-azepan-1-yl-3-cyanophenyl)isonicotinate. (2) Then, 2.49 g of the compound was dissolved in a mixed solvent of 15 ml of methanol and 30 ml of THF, and 11 ml of a 1M aqueous sodium hydroxide solution was added thereto, followed by heating at 80° C. for 1 hour.

reactant | methyl 2-(3-cyano-4-fluorophenyl)isonicotinate | 2.22 g | C(#N)C=1C=C(C=CC1F)C=1C=C(C(=O)OC)C=CN1 | C14H9FN2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 7 ml | CS(=O)C | C2H6OS
product | methyl 2-(4-azepan-1-yl-3-cyanophenyl)isonicotinate | 2.58 g | N1(CCCCCC1)C1=C(C=C(C=C1)C=1C=C(C(=O)OC)C=CN1)C#N | C20H21N3O2
